US07163936B2
To a solution of allyl (2S)-2-(hydroxymethyl)-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate (75 mg, 0.17 mmol) in chloroform (1 ml) was added at 0–5° C. chlorosulfonylisocyanate (17 ml, 0.20 mmol). Three hours later, chlorosulfonylisocyanate (10 ml, 0.11 mmol) was further added thereto. Three hours later, to the mixture was added water and the mixture was stirred for 10 minutes. To the solution was added ethyl acetate and the solution was separated with a separating funnel. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the organic layer was removed in vacuo. The residue was purified with preparative TLC to give allyl (2S)-2-{[(aminocarbonyl)oxy]methyl}-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate (74.5 mg, 90%).

reactant | allyl (2S)-2-(hydroxymethyl)-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate | 0.17 mmol, 75 mg | OC[C@H]1N(CC=C(C1)C=1N=C(SC1)SCC1=CC=C(C=C1)OC)C(=O)OCC=C | C21H24N2O4S2
reactant | chlorosulfonylisocyanate | 0.20 mmol, 17 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | chlorosulfonylisocyanate | 0.11 mmol, 10 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | allyl (2S)-2-{[(aminocarbonyl)oxy]methyl}-4-{2-[(4-methoxybenzyl)sulfanyl]-1,3-thiazol-4-yl}-3,6-dihydro-1(2 H)-pyridinecarboxylate | 74.5 mg, 90% | NC(=O)OC[C@H]1N(CC=C(C1)C=1N=C(SC1)SCC1=CC=C(C=C1)OC)C(=O)OCC=C | C22H25N3O5S2
